US07829584B2
5-methyl-benzo[d]isoxazol-3-ylamine
To a solution of 1 M potassium tert-butoxide in THF (40.7 mL, 40.7 mmol) was added acetone oxime (2.97 g, 40.7 mmol) in one portion. After stirring for 20 min at rt, a solution of 2-fluoro-5-methylbenzonitrile (5.0 g, 37.0 mmol) in THF (30 mL) was slowly added from an addition funnel. After stirring for 3 hrs at room temperature, the mixture was heated at 60° C. overnight. A dark brown solution was obtained. The reaction was quenched with water (10 mL). The reaction mixture was partitioned between saturated NaHCO3 solution (50 mL) and ethyl acetate (150 mL). The organic layer was separated and washed with water (3×30 mL) and the solvent was removed on a rotary evaporator to yield a brown solid. The solid was then treated with a mixture of EtOH (80 mL), H2O (53 mL) and HCl (12 N, 26.8 mL) at reflux for 2 hrs. After cooling, the reaction mixture was basified with solid sodium carbonate and NaOH (1 N, 30 mL). The reaction mixture was then extracted with ethyl acetate (2×100 mL). The organic layer was washed with water (2×30 mL) and brine (40 mL), then dried over anhydrous sodium sulfate. Rotary evaporation of solvent afforded a brown solid (4.6 g). LC/MS (ESI) (M+H++CH3CN: 190.0). This product was used without further purification.

reactant | potassium tert-butoxide | 1 M | CC(C)([O-])C.[K+]
reactant | acetone oxime | 40.7 mmol, 2.97 g | CC(C)=NO | C3H7NO
reactant | 2-fluoro-5-methylbenzonitrile | 37.0 mmol, 5.0 g | FC1=C(C#N)C=C(C=C1)C | C8H6FN
reactant | HCl | 12 N, 26.8 mL | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | NaOH | 1 N, 30 mL | [OH-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 40.7 mmol, 40.7 mL | C1CCOC1 | C4H8O
solvent | H2O | 53 mL | O | H2O
solvent | EtOH | 80 mL | CCO | C2H6O
product | 5-methyl-benzo[d]isoxazol-3-ylamine | 4.6 g | CC=1C=CC2=C(C(=NO2)N)C1 | C8H8N2O
